US04889855
To a solution of 1,6 g (5,9 mmol) 1-amino-5-bromo-2-nitronaphthalene in 50 ml dimethylformamide was added 1,1 g (11,8 mmol) cuprous cyanide. The reaction mixture was refluxed for 5 h, and then poured into a solution of 2,5 ml ethylenediamine in 80 ml water. Stirring was continued for 15 min., and then the precipitate was filtered off and washed with water and boiling ethyl acetate to give 1,0 g (80%) 1-amino-5-cyano-2-nitronaphthalene.

reactant | 1-amino-5-bromo-2-nitronaphthalene | 5,9 mmol, 1,6 g | NC1=C(C=CC2=C(C=CC=C12)Br)[N+](=O)[O-] | C10H7BrN2O2
reactant | ethylenediamine | 2,5 ml | C(CN)N | C2H8N2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 80 ml | O | H2O
product | 1-amino-5-cyano-2-nitronaphthalene | 1,0 g, 80% | NC1=C(C=CC2=C(C=CC=C12)C#N)[N+](=O)[O-] | C11H7N3O2
